US05142056
A. Benzyl α-Isopropylacrylate
α-Isopropylacrylic acid (13 mmol) in dry ether (40 ml) was treated with dicyclohexylcarbodiimide (12 mmol), benzyl alcohol (12 mmol) and 4-dimethylaminopyridine (2.5 mmol). After stirring at ambient temperature for 44 h, the mixture was filtered and evaporated. Silica gel chromatography provided the desired compound.

reactant | α-Isopropylacrylic acid | 13 mmol | C(C)(C)C(C(=O)O)=C | C6H10O2
reactant | dicyclohexylcarbodiimide | 12 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | benzyl alcohol | 12 mmol | C(C1=CC=CC=C1)O | C7H8O
solvent | ether | 40 ml | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 2.5 mmol | CN(C1=CC=NC=C1)C | C7H10N2
product | Benzyl α-Isopropylacrylate | C(C)(C)C(C(=O)OCC1=CC=CC=C1)=C | C13H16O2
